US05194617
A solution of 1.38 g (9.04 mmols) of phosphorus oxychloride in 5 ml of methylene chloride and a solution of 913 mg (9.04 mmols) of triethylamine in 5 ml of methylene chloride were, respectively, dropped almost simultaneously in 15 minutes into a solution of 1.85 g (8.00 mmols) of the crude product of 2, 3-dimethyl-4-acetoxyquinoline oxide in 5 ml of methylene chloride, followed by stirring at room temperature for 10 minutes. The reaction solution was washed with a saturated sodium hydrogencarbonate aqueous solution and saturated sodium chloride aqueous solution, and dried with sodium sulfate. The solvent was distilled off under reduced pressure to obtain a crude product, followed by purification by silica gel column chromatography (Wako (solvent: n-hexane : ethyl acetate=5:1) to obtain 700 mg (yield 36%) of 2-chloromethyl-3-methyl-4-acetoxyquinoline.

reactant | phosphorus oxychloride | 9.04 mmols, 1.38 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | triethylamine | 9.04 mmols, 913 mg | C(C)N(CC)CC | C6H15N
reactant | 2, 3-dimethyl-4-acetoxyquinoline oxide | CC1=[N+](C2=CC=CC=C2C(=C1C)OC(C)=O)[O-] | C13H13NO3
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | 2-chloromethyl-3-methyl-4-acetoxyquinoline | 700 mg, yield 36% | ClCC1=NC2=CC=CC=C2C(=C1C)OC(C)=O | C13H12ClNO2
